US07834205B2
13.7 mL of TIBA/cyclohexane solution (113 g/L) were mixed with 3.3 mL of MAO/toluene solution (Albemarle 30% wt/wt, d=0.92 g/mL, 15.6 mmol MAO) to obtain a MAO/TIBA molar ratio of 2:1. The solution was stirred for 1 h at room temperature and transferred into a 50 mL Schlenk flask containing A-1 (46.85 mg, 58.5 μmol). The final solution was diluted with 18.7 mL of cyclohexane. Final mixture concentration=70 gTOT/L and 1.313 gmetallocene/L; color=orange solution.

reactant | TIBA cyclohexane | 13.7 mL | C1=C(C=C(C(=C1I)I)C(=O)O)I.C1CCCCC1
reactant | toluene | 15.6 mmol | C1(=CC=CC=C1)C | C7H8
product | TIBA | C1=C(C=C(C(=C1I)I)C(=O)O)I | C7H3I3O2
